US08466199B2
4-But-3-enyloxymethyl-benzoic acid (Compound 33)
To the suspension of sodium hydride (1.390 g, 95%, 55 mmol) in tetrahydrofuran (150 ml), But-3-en-1-ol (3.966 g, 4.7 ml, 55 mmol) was added. After the reaction mixture was refluxed for 30 min, 4-Bromomethyl-benzoic acid (5.376 g, 25 mmol) was added and the reaction was kept to reflux for additional 10 h. After cooling down, water (100 ml) was added and the tetrahydrofuran was removed under vacuum. This resulting aqueous solution was adjusted with 6N HCl to pH 2 at 5° C. to generate white precipitate, which was then collected by filtration. The recrystallization of this crude product from hexane/ether yielded pure 4-But-3-enyloxymethyl-benzoic acid as colorless crystal (4.15 g, 80.5%). 1H-NMR (400 MHz, d6-DMSO): 7.91 (d, J=8.2, 2 arom. H); 7.41 (J=8, 2 arom. H); 5.81 (m, —CH═CH2); 5.10 (2 d-like, —CH═CH2); 4.53 (s, —OCH2—C6H4); 3.49 (m, CH2═CH—CH2CH2O); 2.32 (m, CH2═CH—CH2CH2O). 13C-NMR (100 MHz, d6-DMSO): 167.14 (—C═O); 143.72; 135.49; 129.73; 129.28 (2 arom. C); 127.08 (2 arom. C); 116.46; 71.13; 69.18.

reactant | sodium hydride | 55 mmol, 1.390 g | [H-].[Na+]
reactant | But-3-en-1-ol | 55 mmol, 4.7 ml, 3.966 g | C(CC=C)O | C4H8O
reactant | 4-Bromomethyl-benzoic acid | 25 mmol, 5.376 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-But-3-enyloxymethyl-benzoic acid | C(CC=C)OCC1=CC=C(C(=O)O)C=C1 | C12H14O3
